US06927228B2
(b) N-[4′-(2,4-Dioxothiazolidin-5-ylmethyl)-biphenyl-3-ylmethyl]-N-methyl-3-phenylpropionamide
In a manner similar to that of Example 1(g), starting with 210 mg (0.45 mmol) of N-[4′-(2,4-dioxothiazolidin-5-ylidenemethyl)biphenyl-3-ylmethyl]-N-methyl-3-phenylpropionamide in 15 ml of tetrahydrofuran, 95 mg (45%) of the desired product, with a melting point of 325° C., are obtained.

reactant | N-[4′-(2,4-dioxothiazolidin-5-ylidenemethyl)biphenyl-3-ylmethyl]-N-methyl-3-phenylpropionamide | 0.45 mmol, 210 mg | O=C1SC(C(N1)=O)=CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(CCC1=CC=CC=C1)=O)C | C27H24N2O3S
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | N-[4′-(2,4-Dioxothiazolidin-5-ylmethyl)-biphenyl-3-ylmethyl]-N-methyl-3-phenylpropionamide | 95 mg, 45% | O=C1SC(C(N1)=O)CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(CCC1=CC=CC=C1)=O)C | C27H26N2O3S
